* File: hw2_XOR.pex.netlist.pex
* Created: Fri Nov 15 03:02:13 2024
* Program "Calibre xRC"
* Version "v2020.2_14.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HW2_XOR%1 7 11 15 19
c0 28 0 0.043751f
c1 27 0 0.0980426f
c2 23 0 0.464519f
c3 22 0 0.0796757f
c4 19 0 0.380449f
c5 15 0 0.232702f
c6 11 0 0.427616f
c7 7 0 0.166048f
c8 3 0 0.0338028f
r9 27 30 8.07022
r10 27 29 8.07022
r11 27 28 13.2552
r12 22 25 8.07022
r13 22 24 8.07022
r14 22 23 13.2552
r15 19 30 165.75
r16 15 29 97.75
r17 11 25 196.75
r18 7 24 66.75
r19 4 23 0.1414
r20 3 28 0.169217
r21 3 4 0.0391994
.ends

.subckt PM_HW2_XOR%2 7 11 15 19 23 27
c0 54 0 1.56153f
c1 42 0 0.109185f
c2 41 0 0.0966054f
c3 38 0 0.105963f
c4 36 0 0.0451036f
c5 31 0 0.0317774f
c6 30 0 0.0850606f
c7 27 0 0.250669f
c8 23 0 0.445395f
c9 19 0 0.237375f
c10 15 0 0.400878f
c11 11 0 0.253852f
c12 7 0 0.433875f
r13 51 54 0.416
r14 47 51 1.6822
r15 42 54 8
r16 41 44 8.07022
r17 41 43 8.07022
r18 41 42 13.2552
r19 36 51 8
r20 35 38 5.4383
r21 35 36 13.2552
r22 31 47 8
r23 30 33 8.07022
r24 30 32 8.07022
r25 30 31 13.2552
r26 27 44 92.75
r27 23 43 170.75
r28 17 38 4.73303
r29 17 19 92.75
r30 13 38 4.73303
r31 13 15 170.75
r32 11 33 92.75
r33 7 32 170.75
.ends

.subckt PM_HW2_XOR%3 4 9 10
c0 20 0 0.41562f
c1 13 0 0.152829f
c2 7 0 0.096204f
r3 19 20 8
r4 16 20 0.676
r5 15 16 8
r6 13 19 0.1484
r7 12 13 16.3327
r8 10 12 4.90213
r9 9 12 4.86383
r10 7 15 0.1484
r11 6 7 16.3327
r12 4 6 5.05532
.ends

.subckt PM_HW2_XOR%4 4 9 10
c0 20 0 0.405052f
c1 19 0 0.151266f
c2 15 0 0.0976115f
r3 19 20 8
r4 16 20 0.676
r5 15 16 8
r6 13 19 0.1484
r7 12 13 16.3327
r8 10 12 4.90213
r9 9 12 4.86383
r10 7 15 0.1484
r11 6 7 16.3327
r12 4 6 5.05532
.ends

.subckt PM_HW2_XOR%5 10 11 18 19 23 24 31 32 38 42
c0 71 0 0.859583f
c1 63 0 0.82779f
c2 62 0 0.258095f
c3 58 0 0.122625f
c4 55 0 0.882092f
c5 46 0 0.0439478f
c6 45 0 0.0946705f
c7 42 0 0.411597f
c8 38 0 0.34234f
c9 35 0 0.268504f
c10 30 0 0.591462f
c11 27 0 0.124151f
r12 67 71 1.2324
r13 66 67 8
r14 62 63 8
r15 59 63 1.04
r16 58 59 8
r17 54 55 8
r18 51 55 1.04
r19 50 51 8
r20 46 71 8
r21 45 48 8.07022
r22 45 47 8.07022
r23 45 46 13.2552
r24 42 48 144.75
r25 38 47 118.75
r26 35 54 0.294
r27 34 35 16.3327
r28 32 34 4.90213
r29 31 34 5.24681
r30 30 66 0.73052
r31 29 30 16.3327
r32 27 50 0.294
r33 26 29 9.19149
r34 26 27 16.3327
r35 24 26 5.09362
r36 23 29 5.24681
r37 22 62 0.294
r38 21 22 16.3327
r39 19 21 4.90213
r40 18 21 5.24681
r41 17 66 0.8764
r42 16 17 16.3327
r43 14 58 0.294
r44 13 16 9.19149
r45 13 14 16.3327
r46 11 13 5.09362
r47 10 16 5.24681
.ends

.subckt PM_HW2_XOR%6 15 16 20 21 28 29 33 34 43 47 51 55
c0 90 0 0.482397f
c1 89 0 0.134695f
c2 85 0 0.204689f
c3 82 0 0.475054f
c4 76 0 1.066f
c5 64 0 0.0371271f
c6 63 0 0.103128f
c7 59 0 0.0453098f
c8 58 0 0.104822f
c9 55 0 0.355742f
c10 51 0 0.435389f
c11 47 0 0.3629f
c12 43 0 0.448828f
c13 40 0 0.652641f
c14 37 0 0.133232f
c15 32 0 0.161166f
c16 11 0 0.053097f
r17 89 90 8
r18 86 90 0.481
r19 85 86 8
r20 81 82 8
r21 75 76 8
r22 73 76 0.7124
r23 69 73 0.546
r24 64 73 8
r25 63 66 8.07022
r26 63 65 8.07022
r27 63 64 13.2552
r28 59 69 8
r29 58 61 8.07022
r30 58 60 8.07022
r31 58 59 13.2552
r32 55 66 118.75
r33 51 65 144.75
r34 47 61 118.75
r35 43 60 144.75
r36 40 75 0.87612
r37 39 40 16.3327
r38 37 81 0.294
r39 36 39 9.19149
r40 36 37 16.3327
r41 34 36 4.90213
r42 33 39 4.86383
r43 31 32 16.3327
r44 29 31 5.4766
r45 28 31 4.86383
r46 27 75 0.7308
r47 26 27 16.3327
r48 24 89 0.294
r49 23 26 9.19149
r50 23 24 16.3327
r51 21 23 4.90213
r52 20 26 4.86383
r53 19 85 0.294
r54 18 19 16.3327
r55 16 18 5.4766
r56 15 18 4.86383
r57 14 82 0.4836
r58 13 14 8
r59 11 32 0.25872
r60 11 13 0.0310889
.ends

.subckt PM_HW2_XOR%7 9 28 29 33 34 38 39 46 47
c0 73 0 0.00125694f
c1 59 0 0.00127816f
c2 57 0 0.535937f
c3 50 0 0.0922304f
c4 45 0 0.110588f
c5 42 0 0.0620748f
c6 37 0 0.160496f
c7 32 0 0.0977946f
c8 7 0 0.152376f
c9 5 0 0.318872f
r10 56 57 8
r11 53 57 0.8554
r12 52 53 8
r13 50 73 0.230087
r14 49 50 16.3327
r15 47 49 4.90213
r16 46 49 5.4383
r17 45 56 0.1484
r18 44 45 16.3327
r19 42 66 0.230087
r20 41 44 9.19149
r21 41 42 16.3327
r22 39 41 4.90213
r23 38 44 4.86383
r24 37 52 0.1484
r25 36 37 16.3327
r26 34 36 5.66809
r27 33 36 4.86383
r28 32 59 0.230087
r29 31 32 16.3327
r30 29 31 4.90213
r31 28 31 5.05532
r32 24 73 0.0195555
r33 18 66 0.00770322
r34 12 59 0.0195555
r35 9 24 16.3327
r36 9 18 16.3327
r37 9 12 16.3327
r38 8 18 0.0296412
r39 7 24 0.0195555
r40 7 8 0.642174
r41 6 12 0.0195555
r42 5 18 0.0296412
r43 5 6 1.22043
.ends

.subckt PM_HW2_XOR%8 9 10 11 15 16 20 21 28 29
c0 63 0 1.88869e-19
c1 59 0 2.16935e-20
c2 57 0 0.534827f
c3 56 0 0.114369f
c4 52 0 0.151503f
c5 32 0 0.0883812f
c6 24 0 0.0598257f
c7 14 0 0.0904985f
c8 7 0 0.154485f
c9 5 0 0.315067f
r10 56 57 8
r11 53 57 0.8554
r12 52 53 8
r13 47 63 0.0195555
r14 41 61 0.00770322
r15 35 59 0.0195555
r16 32 63 0.229783
r17 31 32 16.3327
r18 29 31 4.90213
r19 28 31 5.4383
r20 27 56 0.1484
r21 26 27 16.3327
r22 24 61 0.229783
r23 23 26 9.19149
r24 23 24 16.3327
r25 21 23 4.90213
r26 20 26 4.86383
r27 19 52 0.1484
r28 18 19 16.3327
r29 16 18 5.66809
r30 15 18 4.86383
r31 14 59 0.229783
r32 13 14 16.3327
r33 11 13 4.90213
r34 10 13 5.05532
r35 9 47 16.3327
r36 9 41 16.3327
r37 9 35 16.3327
r38 8 41 0.0296412
r39 7 47 0.0195555
r40 7 8 0.642174
r41 6 35 0.0195555
r42 5 41 0.0296412
r43 5 6 1.22043
.ends

.subckt PM_HW2_XOR%9 6 10 14 18
c0 36 0 1.23487f
c1 35 0 0.0946521f
c2 31 0 0.0925194f
c3 26 0 0.104661f
c4 21 0 0.111292f
c5 18 0 0.55032f
c6 14 0 0.200099f
c7 10 0 0.59446f
c8 6 0 0.233434f
r9 35 36 8
r10 32 36 1.352
r11 31 32 8
r12 26 29 8.07022
r13 26 28 8.07022
r14 26 35 13.2552
r15 21 24 8.07022
r16 21 23 8.07022
r17 21 31 13.2552
r18 18 29 196.75
r19 14 28 66.75
r20 10 24 196.75
r21 6 23 66.75
.ends

.subckt PM_HW2_XOR%10 3 4 8 9
c0 14 0 1.15313f
c1 12 0 0.943893f
r2 12 14 1.16732
r3 11 12 16.3327
r4 9 11 4.90213
r5 8 11 4.86383
r6 7 14 0.4396
r7 6 7 16.3327
r8 4 6 4.90213
r9 3 6 4.86383
.ends

.subckt PM_HW2_XOR%11 4 8 14 18
c0 31 0 0.994316f
c1 22 0 0.0973848f
c2 21 0 0.107405f
c3 18 0 0.531819f
c4 14 0 0.311895f
c5 11 0 0.623595f
r6 30 31 8
r7 27 31 1.2246
r8 22 27 8
r9 21 24 8.07022
r10 21 23 8.07022
r11 21 22 13.2552
r12 18 24 170.75
r13 14 23 92.75
r14 11 30 0.58492
r15 10 11 16.3327
r16 8 10 5.09362
r17 7 30 1.022
r18 6 7 16.3327
r19 4 6 5.09362
.ends

